US04076709
0.329 g (1 mmol) of 4-hydroxy-N-(2-thiazolyl)-2H-thieno-[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide are dissolved in 2 ml of absolute dimethylformamide and added at 0° C to a stirred suspension of 0.026 g (1.1 mmol) of sodium hydride in 1 ml of absolute dimethylformamide. The mixture is stirred at room temperature for a further 1 hour. 0.1 ml (0.226 g; 1.6 mmol) of methyl iodide are then added to the sodium salt solution and allowed to react for a further 1 hour. After distillation of the solvent, the residue is taken up in 200 ml of methylene chloride and 10 ml of 0.5-N hydrochloric acid. The organic phase is separated and shaken out with a total of 50 ml of a 0.5% sodium bicarbonate solution. The aqueous layer, which now contains the desired product, is back-extracted several times with methylene chloride and acidified with hydrochloric acid. The acidic aqueous phase is extracted with methylene chloride and the combined organic extracts dried over sodium sulphate and evaporated. The crystalline residue is digested with a small amount of cold ethanol for purification. There is obtained 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno-[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide of melting point 217° C (decomposition).

reactant | 4-hydroxy-N-(2-thiazolyl)-2H-thieno-[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | 1 mmol, 0.329 g | OC1=C(NS(C2=C1SC=C2)(=O)=O)C(=O)NC=2SC=CN2 | C10H7N3O4S3
reactant | sodium hydride | 1.1 mmol, 0.026 g | [H-].[Na+]
reactant | methyl iodide | 1.6 mmol, 0.1 ml, 0.226 g | CI | CH3I
reactant | sodium | [Na] | Na
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno-[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C2=C1SC=C2)(=O)=O)C)C(=O)NC=2SC=CN2 | C11H9N3O4S3
